US04017529
methyl N-tert-butylcarbamoyl-4-tert-butylthioallophanimidate, ammonium salt
methyl N-tert-butylcarbamoyl-4-tert-butylthioallophanimidate, cesium salt

reactant | methyl N-tert-butylcarbamoyl-4-tert-butylthioallophanimidate | C(C)(C)(C)NC(=O)N=C(NC(=O)NC(C)(C)C)SC | C12H24N4O2S
reactant | cesium | [Cs] | Cs
product | methyl N-tert-butylcarbamoyl-4-tert-butylthioallophanimidate, ammonium salt | [NH4+].C(C)(C)(C)NC(=O)N=C(NC(=O)NC(C)(C)C)SC | InChI=1S/C12H24N4O2S.H3N/c1-11(2,3)15-8(17)13-10(19-7)14-9(18)16-12(4,5)6;/h1-7H3,(H3,13,14,15,16,17,18);1H3/p+1
